US04994478
3-(2,6-dichlorophenyl)-5-(4-isopropoxybenzyl)-1,2,4-oxadiazole (Compound No. 10)
A solution of 102.5 g of N'-(4-isopropoxyphenylacetoxy)-2,6-dichlorobenzamidine in 500 ml of DMF was heated at 140° C. for 1.5 hours.

reactant | N'-(4-isopropoxyphenylacetoxy)-2,6-dichlorobenzamidine | 102.5 g | C(C)(C)OC1=CC=C(C=C1)CC(=O)ON=C(C1=C(C=CC=C1Cl)Cl)N | C18H18Cl2N2O3
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 3-(2,6-dichlorophenyl)-5-(4-isopropoxybenzyl)-1,2,4-oxadiazole | ClC1=C(C(=CC=C1)Cl)C1=NOC(=N1)CC1=CC=C(C=C1)OC(C)C | C18H16Cl2N2O2
